US04482710
2 g of sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate were dissolved in 20 ml of 50% v/v aqueous methanol, and 20 g of magnesium chloride were added to the resulting solution. The mixture was then stirred at 70° C. for 1 hour, after which it was treated as described in Example 2, to give 1.4 g of 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid, in the form of a yellow solid.

reactant | sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O.[Na+]
reactant | magnesium chloride | 20 g | [Cl-].[Mg+2].[Cl-]
solvent | methanol | CO | CH4O
product | 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid | 1.4 g | COCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O | C17H18N2O6S
